US07598391B2
3-(5-Chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-[1-(propane-1-sulfonyl)piperidin-4-yl]-urea
Prepared as described in general procedure (G) using 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea and 3-chloropropane-1-sulfonyl chloride

reactant | 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea | ClC1=CN=C(S1)NC(N(C1CCNCC1)[C@@H]1CC[C@H](CC1)C)=O | C16H25ClN4OS
reactant | 3-chloropropane-1-sulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
product | 3-(5-Chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-[1-(propane-1-sulfonyl)piperidin-4-yl]-urea | ClC1=CN=C(S1)NC(N(C1CCN(CC1)S(=O)(=O)CCC)[C@@H]1CC[C@H](CC1)C)=O | C19H31ClN4O3S2
